US05886014
Methyl 1-benzyl-5-benzimidazolecarboxylate
A mixture of 2.8 g of methyl 5-benzimidazolecarboxylate (prepared as described in Preparation 26), 3.52 g of benzyl bromide, 3 g of potassium carbonate and 50 ml of acetone was stirred for 3 days at room temperature. At the end of this time, the solvent was removed by evaporation under reduced pressure and the residue was mixed with an aqueous solution of sodium chloride, after which it was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was then recrystallized from a mixture of ethyl acetate and hexane, to give 0.94 g of the title compound, melting at 156°-162° C.

reactant | methyl 5-benzimidazolecarboxylate | 2.8 g | N1=CNC2=C1C=CC(=C2)C(=O)OC | C9H8N2O2
reactant | benzyl bromide | 3.52 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Methyl 1-benzyl-5-benzimidazolecarboxylate | 0.94 g | C(C1=CC=CC=C1)N1C=NC2=C1C=CC(=C2)C(=O)OC | C16H14N2O2
